US08110573B2
A mixture of cyano-acetic acid (23 mg, 0.28 mmol), 3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (70%, 100 mg, 0.23 mmol), TBTU (89 mg, 0.28 mmol) and DMF (2 ml) was stirred at 25° C. overnight. The mixture was then evaporated in vacuo. Flash chromatography, eluting with DCM-6% MeOH/DCM afforded 2-cyano-N-[3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-acetamide as a yellow solid (65 mg, 77%). (LC/MS (acidic method/final compound): Rt 4.61, [M+H]+ 366).

reactant | cyano-acetic acid | 0.28 mmol, 23 mg | C(#N)CC(=O)O | C3H3NO2
reactant | 3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.23 mmol, 100 mg | N1(CCOCC1)CC1=CC2=C(NC(=N2)C2=NNC=C2N)C=C1 | C15H18N6O
reactant | TBTU | 0.28 mmol, 89 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-cyano-N-[3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-acetamide | 65 mg, 77% | C(#N)CC(=O)NC=1C(=NNC1)C1=NC2=C(N1)C=CC(=C2)CN2CCOCC2 | C18H19N7O2
